data/mechanism_extracts/OrgLett/10.1021_acs.orglett.2c04045.json
{"doi": "10.1021_acs.orglett.2c04045", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Palladium-catalyzed electrooxidative hydrofluorination of aryl-substituted alkenes (styrenes and α,β-unsaturated carbonyls) with a nucleophilic fluoride source (Et3N·3HF) and a hydrosilane to give benzylic fluorides", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic", "carbocation"], "electrochemical_role": "Anodic oxidation of an η3-benzylpalladium(II) intermediate to a high-valent Pd(III) or Pd(IV) species, which enables C-F bond formation with nucleophilic fluoride; cathode reduces protons to H2 as the counter-reaction", "key_intermediates": [{"name": "LnPd(II)X2 precatalyst (I)", "smiles": null, "role": "resting_state"}, {"name": "η3-benzylpalladium(II) species (II) formed from alkene insertion with hydrosilane", "smiles": null, "role": "reactive"}, {"name": "high-valent benzylpalladium(III/IV) intermediate (III) generated by anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "benzyl carbocation (IV) from heterolysis of high-valent Pd-benzyl, stabilized by HFIP", "smiles": null, "role": "transient"}, {"name": "stoichiometric (R)-Tol-BINAP Pd(II) η3-benzyl complex 41 (isolated)", "smiles": null, "role": "stoichiometric_intermediate"}], "electron_flow": "Pd(II) inserts into the aryl alkene with hydrosilane to form an η3-benzyl-Pd(II); the anode oxidizes this complex by one or two electrons to a high-valent Pd(III/IV)-benzyl, which undergoes C-F bond formation with fluoride (either via reductive elimination or via a benzyl carbocation trapped by F−), regenerating Pd(II); protons are reduced to H2 at the cathode.", "rate_determining_step": "Anodic oxidation of the η3-benzylpalladium(II) intermediate to the high-valent Pd species (the C-F forming step requires potentials above the onset potential of complex 41)", "probe_reagents": [{"name": "stoichiometric η3-benzyl Pd(II)-(R)-Tol-BINAP complex 41", "smiles": null, "purpose": "intermediate_trap", "observation": "No fluorinated product without electrolysis or at E < Eonset; product 15 formed in 28±5% as a racemate at Ucell = 2.7 V (E > Eonset), supporting that anodic oxidation of the Pd(II)-benzyl is required"}, {"name": "chemical oxidants Ag(I), Cu(II), benzoquinone, Oxone, CAN, iodine(III)", "smiles": null, "purpose": "redox_probe", "observation": "None gave stoichiometric fluorination of 41, indicating the high-valent Pd intermediate is only accessible via anodic oxidation"}, {"name": "HFIP cosolvent", "smiles": "OC(C(F)(F)F)C(F)(F)F", "purpose": "other", "observation": "Racemic product from enantiopure Pd complex 41 plus HFIP stabilization argues for a benzyl carbocation pathway from the high-valent Pd"}], "evidence_types_used": ["stoichiometric_intermediate", "isolation_of_intermediate", "redox_probe", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Two C-F bond forming scenarios are proposed and cannot be distinguished: (favored) heterolysis of high-valent Pd-benzyl to a benzyl carbocation (IV) that is trapped by fluoride, consistent with the racemic product from enantiopure 41 and the role of HFIP; alternatively inner- or outer-sphere C-F reductive elimination directly from the high-valent Pd(III/IV) intermediate. A low-valent Pd(II)/Pd(0) pathway (pathway II) is ruled out because no product forms without applied potential."}
